US05962458
A mixture of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride (470 mg, 1 mmol), (prepared as described for the starting material in Example 22), 2-chloromethyl-1-methylimidazole hydrochloride (335 mg, 2 mmol), potassium carbonate (414 mg, 3 mmol) and potassium iodide (20 mg) in DMF (15 ml) was heated at 60° C. for 2 hours. The mixture was allowed to cool and partitioned between ethyl acetate and water. The organic layer was separated, washed with water and brine, dried (MgSO4) and the solvent removed by evaporation. The crude product was dissolved in methanol (20 ml), 2M sodium hydroxide (1 ml) was added and the mixture stirred for 15 minutes. Concentrated hydrochloric acid (0.5 ml) was added and the solvent was removed by evaporation. The crude product was purified by reverse phase chromatography eluting with methanol/water (1/1). Concentrated hydrochloric acid (0.3 ml) was added to the combined fractions containing the pure product and the solvent was removed by evaporation to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-((1-methylimidazol-2-yl)methoxy)quinazoline hydrochloride (100 mg, 21%).

reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline hydrochloride | 1 mmol, 470 mg | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C(C(=C1)C)OC(=O)OC
reactant | 2-chloromethyl-1-methylimidazole hydrochloride | 2 mmol, 335 mg | Cl.ClCC=1N(C=CN1)C
reactant | potassium carbonate | 3 mmol, 414 mg | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 20 mg | [I-].[K+]
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-6-methoxy-7-((1-methylimidazol-2-yl)methoxy)quinazoline hydrochloride | 100 mg, 21% | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC=2N(C=CN2)C)C=C(C(=C1)C)O | InChI=1S/C21H20FN5O3.ClH/c1-12-6-14(22)16(8-17(12)28)26-21-13-7-18(29-3)19(9-15(13)24-11-25-21)30-10-20-23-4-5-27(20)2;/h4-9,11,28H,10H2,1-3H3,(H,24,25,26);1H
